US07723368B2
Step 3: Synthesis of 4-(5-((4-(difluoromethoxy)phenyl)ethynyl)-2-fluorophenyl)morpholine
In a 0.5-2 ml Biotage conical microwave vial equipped with magnetic spin vane was dissolved 4-(5-ethynyl-2-fluorophenyl)morpholine (540 mg, 1.50 mmol) in triethylamine (1.5 mL). Copper iodide (54 mg, 0.283 mmol) and Tetrakis(triphenylphosphine) palladium (105 mg, 0.091 mmol) were added. Lastly 1-bromo-4-(difluoromethoxy)benzene (0.750 g, 3.36 mmol) was added, the vial was covered with a teflon septa, an aluminum cap was crimped in place, and the assembly was set on a Biotage Emrys microwave instrument to irradiate at 80° C. for 30 minutes. The crude reaction was diluted with diethylether, washed with saturated ammonium chloride, and purified via column chromatography on a Yamazen W-Prep 2XY using 25% EtOAc in hexanes. Concentration by rotary evaporation afforded 500 mg of oil (96%); 1H NMR (400 MHz, DMSO-d6) δ ppm 3.03 (t, J=4.6 Hz, 4H) 3.73 (t, J=4.6 Hz, 4H) 7.13-7.14 (m, 1H) 7.16 (d, J=2.6 Hz, 1H) 7.17-7.19 (m, 2H) 7.22 (d, J=8.8 Hz, 2H) 7.24 (t, J=73.8 Hz, 1H) 7.60 (d, J=8.8 Hz, 2H); MS (ES) m/z 348.2 [M+H]+

reactant | 4-(5-ethynyl-2-fluorophenyl)morpholine | 1.50 mmol, 540 mg | C(#C)C=1C=CC(=C(C1)N1CCOCC1)F | C12H12FNO
reactant | 1-bromo-4-(difluoromethoxy)benzene | 3.36 mmol, 0.750 g | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
reactant | aluminum | [Al] | Al
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | diethylether | C(C)OCC | C4H10O
catalyst | Copper iodide | 0.283 mmol, 54 mg | [Cu](I)I
catalyst | Tetrakis(triphenylphosphine) palladium | 0.091 mmol, 105 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(5-((4-(difluoromethoxy)phenyl)ethynyl)-2-fluorophenyl)morpholine | 500 mg, 96% | FC(OC1=CC=C(C=C1)C#CC=1C=CC(=C(C1)N1CCOCC1)F)F | C19H16F3NO2
